US05248693
N-[4-[5-(Cyclopentyloxycarbonylamino)-1-methyl-indol-3-yl-methyl]-3-methoxybenzoyl]-2-(3-acetoxy- 3-methyl-but-1-yn-1-yl)-benzenesulfonamide
0.44 g of acetic anhydride and 0.1 g of 4-dimethylaminopyridine are added to a solution of 1.0 g of N-[4-[5-(cyclopentyloxycarbonylamino)-1-methyl-indol-3-yl-methyl]-3-methoxybenzoyl]-2-(3-hydroxy-3-methyl-but-1-yn-1-yl)-benzenesulfonamide in 6 ml of pyridine. The reaction solution is stirred for 20 hours at room temperature under argon. The reaction mixture is subsequently diluted with 100 ml of ethyl acetate. The ethyl acetate phase is washed twice with 80 ml of 1N hydrochloric acid each time, with 50 ml of water and with 50 ml of saturated sodium chloride solution. The ethyl acetate phase is dried over magnesium sulfate and concentrated by evaporation at 20 torr and 40°. The residue is chromatographed on 50 g of silica gel (Merck, ST 60, 40-63 μm) with hexane/ethyl acetate=1/1 to yield the title compound in the form of a white amorphous solid. 1H-NMR (400 MHz, DMSO-d6): 8.87 (b, 1H); 8.06 (d, d, 1H); 7.61 (m, 3H); 7.55 (d, 1H); 7.50 (d, 1H); 7.41 (d, d, 1H); 7.22 (d, 1H); 7.14 (d, d, 1H); 7.13 (d, 1H); 6.94 (s, 1H); 5.06 (m, 1H); 3.95 (s, 2H); 3.90 (s, 3H); 3.66 (s, 3H); 1.91 (s, 3H); 1.89-1.52 (m, 8H); 1.61 (s, 6H).

reactant | acetic anhydride | 0.44 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-[4-[5-(cyclopentyloxycarbonylamino)-1-methyl-indol-3-yl-methyl]-3-methoxybenzoyl]-2-(3-hydroxy-3-methyl-but-1-yn-1-yl)-benzenesulfonamide | 1.0 g | C1(CCCC1)OC(=O)NC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C#CC(C)(C)O)C=C1)OC | C35H37N3O7S
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-[4-[5-(Cyclopentyloxycarbonylamino)-1-methyl-indol-3-yl-methyl]-3-methoxybenzoyl]-2-(3-acetoxy- 3-methyl-but-1-yn-1-yl)-benzenesulfonamide | C1(CCCC1)OC(=O)NC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C#CC(C)(C)OC(C)=O)C=C1)OC | C37H39N3O8S
